US20010036946A1
c) [1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinyl]-hydrazine-hydrochloride
21.8 g (0.0498 mol) of N-(1,1-dimethylethoxycarbonyl)-N′-[1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinyl]-hydrazine were dissolved in 100 ml of trifluoroacetic acid and stirred for 1 hour at room temperature. The excess trifluoroacetic acid was removed in vacuo, the residue was dissolved in 50 ml of water and made alkaline with 10 aqueous sodium carbonate solution. The solution was extracted thoroughly with dichloromethane, the combined extracts were dried over magnesium sulphate and evaporated down in vacuo. The residue thus obtained was taken up in ethyl acetate and converted into the hydrochloride by the addition of ethereal hydrogen chloride solution. After recrystallisation from anhydrous ethanol 6.2 g (33.3% of theory) of colourless crystals of melting point 160-162° C. were obtained.

reactant | N-(1,1-dimethylethoxycarbonyl)-N′-[1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinyl]-hydrazine | 0.0498 mol, 21.8 g | CC(C)(OC(=O)NNC1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C | C25H31N3O4
reactant | hydrochloride | Cl | ClH
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [1-(9H-fluoren-9-ylmethoxycarbonyl)-4-piperidinyl]-hydrazine-hydrochloride | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CCC(CC1)NN | InChI=1S/C20H23N3O2.ClH/c21-22-14-9-11-23(12-10-14)20(24)25-13-19-17-7-3-1-5-15(17)16-6-2-4-8-18(16)19;/h1-8,14,19,22H,9-13,21H2;1H
